US07429597B2
6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-2-(hydroxycarbonylmethoxy)-ethylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 8c from 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-2-(tert.-butyloxycarbonylmethoxy)-ethylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline and trifluoroacetic acid.

reactant | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-2-(tert.-butyloxycarbonylmethoxy)-ethylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)N[C@H](COCC(=O)OC(C)(C)C)C1=NC2=C(N1)C=CC(=C2)Cl | C28H30Cl2N6O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-2-(hydroxycarbonylmethoxy)-ethylamino]-7-(pyrrolidin-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CCCC1)N[C@H](COCC(=O)O)C1=NC2=C(N1)C=CC(=C2)Cl | C24H22Cl2N6O4
